data/rdb19/train.csv
rxn,smiles,ea
4150,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:29])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24]=[C:25]([H:30])[H:31])([H:26])([H:27])[H:28],34.2143975335639
683,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],59.43458318623016
735,[C:19]([C:20]([O:21][C:22](=[O:23])[C:24]([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:24]([C:22]([O:21][C:20]([C:19]([H:28])([H:29])[H:30])([H:31])[H:32])=[O:23])([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[N:7]([H:17])[H:18],64.8532588055823
3119,[C:16]([C:17]([C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5][C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],22.66534095694078
5183,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1=[C:6]([H:20])[C:7]([H:21])([H:36])[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[H:29])[N:30]([C:31](=[O:32])[H:38])[H:37])([H:33])([H:34])[H:35],40.053460290131625
2075,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:9][C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26].[N:1]([C:2](=[O:3])[C:4](=[C:5][H:10])[H:8])([H:6])[H:7],34.97696578653995
3376,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28].[C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12],59.39262402622262
5259,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])([H:12])([H:13])[H:14].[C:24](=[O:25])[H:30].[H:15][N:23]([C:22](=[C:21]([H:26])[H:27])[H:28])[H:29],49.22727851197124
4753,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:18])([H:19])[H:20])([N:9]([C:10](=[O:11])[H:22])[H:21])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([H:2])([H:3])([H:4])[H:17].[C:5]([C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[N:9]([C:10](=[O:11])[H:22])[H:21])([H:15])[H:16])([H:12])([H:13])[H:14],18.57110330866999
2447,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[O:10])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:14])([H:15])[H:16]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:9](=[O:10])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17].[H:5][C:8]([H:14])([H:15])[H:16],83.0897034969239
4242,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[H:26])([H:8])([H:9])[H:10],53.33884079603013
